.SUBCKT WPH4003 1 2 3
* DATE : 2016/02/17
* ON Semiconductor
* Information herein is for example only.
* It is not guaranteed for volume production.
* Node 1: Drain  Node 2: Gate  Node 3: Source
* Model:BSIM3V3.2
M1 1 4 3 5 WPH4003N W=478910E-6 L=4.0E-6 AD=478910E-12
RG 2 4 12
RB 3 5 0.018
.MODEL WPH4003N NMOS (                               LEVEL    = 8
+VERSION  = 3.2            TNOM     = 27             TOX      = 1.0E-07
+VTH0     = 3.28           K1       = 3.86           K2       = -0.04
+NLX      = 4.70E-07       DVT0     = 3.12           DVT1     = 0.09
+DVT2     = -0.01          U0       = 620            UA       = 7.90E-09
+UB       = 1.00E-21       VSAT     = 1.75E05        A0       = 0.19
+AGS      = 1.00           A1       = 0              A2       = 1
+RDSW     = 1.38E06        PRWG     = 1.0E-03        WR       = 0.92
+WINT     = 0              LINT     = 0              VOFF     = 0.05
+NFACTOR  = 0.60           CIT      = 0              CDSC     = 2.40E-04
+CDSCD    = 0              ETA0     = 0.00E00        DSUB     = 0.96
+PCLM     = 0.10           PDIBLC1  = 0.00           PDIBLC2  = 1.00E-05
+DROUT    = 0.96           PSCBE1   = 2.70E08        PSCBE2   = 1.00E-08
+PVAG     = 0.01           DELTA    = 0.06           NGATE    = 1.0E19
+MOBMOD   = 1              NQSMOD   = 0              NOIMOD   = 1
+CAPMOD   = 3              XPART    = 0.5            CGSO     = 5.00E-10
+CGDO     = 1.00E-12       CGBO     = 0              CGSL     = 0
+CGDL     = 4.00E-09       CKAPPA   = 1.20           CF       = 0
+CLC      = 3.0E-08        CLE      = 0.8            DWC      = 0
+DLC      = -5.00E-10      NOFF     = 3.66           VOFFCV   = -0.40
+ACDE     = 1.0            MOIN     = 15             CJ       = 3.70E-03
+MJ       = 0.55           PB       = 0.50           JS       = 2.00E-05
+NJ       = 1.05           XTI      = 3.0            IJTH     = 0
+KT1      = -2.0           UTE      = -1.7           PRT      = 4.00E06
+AT       = 3.3E04         )
*
.ENDS WPH4003

